US09034866B2
Synthesis of ethyl 9-bromo-8-fluoro-5,6-dihydro-4H-4,6-methanobenzo[3,4]cyclohepta[1,2-b]thiophene-2-carboxylate
Into a pressure tube containing a solution of 2-bromo-8-chloro-3-fluoro-6,7-dihydro-5H-5,7-methanobenzo[7]annulene-9-carbaldehyde (125 mg at 79% purity LCMS-UV215) in anhydrous N,N-dimethylformamide (0.5 mL) was introduced ethyl mercaptoacetate (46 mg, 0.38 mmol as a solution in 0.5 mL of anhydrous N,N-dimethylformamide) and finely powdered potassium carbonate (53 mg, 0.38 mmol). After warming to 60° C. for 4 hr, the reaction mixture was concentrated in vacuo, the residue suspended in ethyl acetate (15 mL) and washed with water (2×10 ml) and brine (10 ml). The organic extract was dried over sodium sulfate, filtered and the filtrate adsorbed onto silica gel in vacuo. Purification of the dry-loaded material by silica gel flash column chromatography (eluent: heptane/ethyl acetate gradient) furnished the title compound (39 mg, 0.10 mmol, 27% over 2 steps) as a colorless solid: 1H NMR (500 MHz, CDCl3) δ 1.40 (t, J=7.09 Hz, 3H), 1.71 (d, J=8.83 Hz, 2H), 2.86-2.95 (m, 2H), 3.57 (m, 2H), 4.37 (q, J=7.04 Hz, 2H), 6.91 (dd, J=9.14, 2.21 Hz, 1H), 8.06 (dd, J=6.94, 2.21 Hz, 1H), 8.22 (d, J=1.89 Hz, 1H); M+1=381/383.

reactant | 2-bromo-8-chloro-3-fluoro-6,7-dihydro-5H-5,7-methanobenzo[7]annulene-9-carbaldehyde | 125 mg | BrC=1C(=CC2=C(C(=C(C3CC2C3)Cl)C=O)C1)F | C13H9BrClFO
reactant | ethyl mercaptoacetate | SCC(=O)OCC | C4H8O2S
reactant | potassium carbonate | 0.38 mmol, 53 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | ethyl 9-bromo-8-fluoro-5,6-dihydro-4H-4,6-methanobenzo[3,4]cyclohepta[1,2-b]thiophene-2-carboxylate | 0.10 mmol, 39 mg, 27% | BrC=1C(=CC2=C(C3=C(SC(=C3)C(=O)OCC)C3CC2C3)C1)F | C17H14BrFO2S
